US06664111B2
To a stirred solution of 8-amino-4-(4-bromophenyl)quinoline (2.0 g), arsenic acid (2.3 g) and orthophosphoric acid (6 mL) was added 1-(4-bromophenyl)-3-chloropropan-1-one (2.1 g). Care was taken during the addition that the temperature did not to exceed 120° C. The temperature was then ramped to 140° C. and kept there for 1.5 h. The reaction mixture was cooled to room temperature, poured onto ice and then made alkaline with 30% KOH. The precipitated solid was filtered off, washed with water and extracted with hot toluene. This solution was dried over MgSO4 and evaporated to give 4,7-bis(4-bromophenyl)-1,10-phenanthroline as confirmed by 1H NMR.

reactant | 8-amino-4-(4-bromophenyl)quinoline | 2.0 g | NC=1C=CC=C2C(=CC=NC12)C1=CC=C(C=C1)Br | C15H11BrN2
reactant | arsenic acid | 2.3 g | [As](O)(O)(O)=O | AsH3O4
reactant | orthophosphoric acid | 6 mL | P(O)(O)(O)=O | H3O4P
reactant | 1-(4-bromophenyl)-3-chloropropan-1-one | 2.1 g | BrC1=CC=C(C=C1)C(CCCl)=O | C9H8BrClO
reactant | KOH | [OH-].[K+]
product | 4,7-bis(4-bromophenyl)-1,10-phenanthroline | BrC1=CC=C(C=C1)C1=CC=NC2=C3N=CC=C(C3=CC=C12)C1=CC=C(C=C1)Br | C24H14Br2N2
